US07253196B2
5-Isopropyl-2-[(2-morpholin-4-ylethyl)amino]-1,3-thiazol-4(5H)-one
Synthesis was performed from N-(2-morpholin-4-ylethyl)thiourea and ethyl 2-bromo-3-methylbutanoate according to Method C.

reactant | N-(2-morpholin-4-ylethyl)thiourea | N1(CCOCC1)CCNC(=S)N | C7H15N3OS
reactant | ethyl 2-bromo-3-methylbutanoate | BrC(C(=O)OCC)C(C)C | C7H13BrO2
product | 5-Isopropyl-2-[(2-morpholin-4-ylethyl)amino]-1,3-thiazol-4(5H)-one | C(C)(C)C1C(N=C(S1)NCCN1CCOCC1)=O | C12H21N3O2S
